US09334286B2
1-(4-(3-((2-Methoxy-4-(5,6,7,8-tetrahydroimidazo[1,2-a]pyrazin-3-yl)phenyl)amino)-isoquinolin-6-yl)-1H-pyrazol-1-yl)-2-methylpropan-2-ol
The title compound was prepared according to the method described for Example 110 using 1-(1-(4-(3-chloroisoquinolin-6-yl)-1H-pyrazol-1-yl)-2-methylpropan-2-ol (Preparation 22) and tert-butyl 3-(4-amino-3-methoxyphenyl)-5,6-dihydroimidazo[1,2-a]pyrazine-7(8H)-carboxylate (Preparation 89).

reactant | 1-(4-(3-chloroisoquinolin-6-yl)-1H-pyrazol-1-yl)-2-methylpropan-2-ol | ClC=1N=CC2=CC=C(C=C2C1)C=1C=NN(C1)CC(C)(O)C | C16H16ClN3O
reactant | tert-butyl 3-(4-amino-3-methoxyphenyl)-5,6-dihydroimidazo[1,2-a]pyrazine-7(8H)-carboxylate | NC1=C(C=C(C=C1)C1=CN=C2N1CCN(C2)C(=O)OC(C)(C)C)OC | C18H24N4O3
product | 1-(4-(3-((2-Methoxy-4-(5,6,7,8-tetrahydroimidazo[1,2-a]pyrazin-3-yl)phenyl)amino)-isoquinolin-6-yl)-1H-pyrazol-1-yl)-2-methylpropan-2-ol | COC1=C(C=CC(=C1)C1=CN=C2N1CCNC2)NC=2N=CC1=CC=C(C=C1C2)C=2C=NN(C2)CC(C)(O)C | C29H31N7O2
